US06906084B2
(iv) tert.-Butyl [2-(1-isopropyl-piperidin-4-ylcarbamoyl)-indol-1-yl]-acetate.
To a solution of 0.5 g 1-tert.-butoxycarbonylmethyl-1H-indole-2-carboxylic acid and 0.91 ml N-ethylmorpholine in 3 ml dichloromethane 0.6 g O-[(ethoxycarbonyl)cyanomethylenamino]-N,N,N′,N′-tetramethyluronium tetrafluoroborate were added and the mixture was stirred for 30 min at room temperature. 0.39 g 1-isopropyl-piperidin-4-ylamine hydrochloride were added to the mixture and the reaction mixture was further stirred for 1 hour. After removal of the solvent under reduced pressure the residue was partitioned between 15 ml water and 15 ml dichloromethane. The organic layer was washed with additional water and then dried over sodium sulphate. After filtration the solvent was removed under reduced pressure and a white solid was obtained. The residue was directly subjected to the subsequent reaction without further purification.

reactant | 1-tert.-butoxycarbonylmethyl-1H-indole-2-carboxylic acid | 0.5 g | C(C)(C)(C)OC(=O)CN1C(=CC2=CC=CC=C12)C(=O)O | C15H17NO4
reactant | N-ethylmorpholine | 0.91 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-isopropyl-piperidin-4-ylamine hydrochloride | 0.39 g | Cl.C(C)(C)N1CCC(CC1)N
solvent | dichloromethane | 3 ml, 0.6 g | ClCCl | CH2Cl2
product | tert.-Butyl [2-(1-isopropyl-piperidin-4-ylcarbamoyl)-indol-1-yl]-acetate | C(C)(C)N1CCC(CC1)NC(=O)C=1N(C2=CC=CC=C2C1)CC(=O)OC(C)(C)C | C23H33N3O3
